US06150352
Step 7.2A 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-iodo-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (EXAMPLE 4.2 Step B, 200 mg in a mixture of 3 mL dry N,N-dimethylformamide and 0.9 mL triethylamine) was added 118 mg of acetamide oxime followed by 11 mg of dichlorobis(triphenylphosphine) palladium (II) and the mixture heated to reflux on an oil bath under an atmosphere of carbon monoxide. After 12 hours, the mixture was cooled to room temperature and diluted with ethyl acetate and 0.5N hydrochloric acid. This was extracted with ethyl acetate and the organic portion washed with brine then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane, 1:4; then 3:7) gave the title compound (88 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-iodo-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)I)Cl)=O)C1=CC(=CC(=C1)C)C | C29H34ClIN2O4
reactant | acetamide oxime | 118 mg | C(C)(N)=NO | C2H6N2O
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.9 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 0.5N | Cl | ClH
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 88 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C1=NC(=NO1)C)Cl)=O)C1=CC(=CC(=C1)C)C | C32H37ClN4O5
